### PR TITLE
[Merged by Bors] - feat(NumberTheory/Padics/PadicVal): lemmas with factorial

### PR DESCRIPTION
**Pull request by mo271**
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/NumberTheory/Padics/PadicVal.lean [hunk 1]
```diff
@@ -542,12 +542,34 @@ theorem range_pow_padicValNat_subset_divisors' {n : ℕ} [hp : Fact p.Prime] :
...
+        <| factorial_ne_zero (p * m + _), hn <| lt_of_succ_lt h, ← add_succ,
+        padicValNat_eq_zero_between_consec_multiples (Nat.lt_add_of_pos_right <| succ_pos n)
+        (Nat.mul_add _ _ _▸ Nat.mul_one _ ▸ ((add_lt_add_iff_left (p * m)).mpr h)), zero_add]
+
+/-- The `p`-adic valuation of `n!` is equal to the `p`-adic valuation of the factorial of the
+the largest multiple of `p` below `n`, i.e. `(p * ⌊n / p⌋)!`. -/
+theorem padicValNat_factorial_div {p : ℕ} (n : ℕ)  [hp : Fact p.Prime]:
+   padicValNat p n ! = padicValNat p (p * (n / p))! := by
+  nth_rw 1 [← div_add_mod n p]
+  refine' padicValNat_factorial_add (n / p) <| mod_lt n <|Prime.pos hp.out
```
Comment (mo271) [inline Mathlib/NumberTheory/Padics/PadicVal.lean:572]:
```suggestion
  exact padicValNat_factorial_add (n / p) <| mod_lt n <|Prime.pos hp.out
```

File: Mathlib/NumberTheory/Padics/PadicVal.lean [hunk 2]
```diff
@@ -542,12 +542,34 @@ theorem range_pow_padicValNat_subset_divisors' {n : ℕ} [hp : Fact p.Prime] :
...
-  exact Prime.multiplicity_factorial_mul hp
+  rw [padicValNat_def' (Nat.Prime.ne_one hp.out) <| factorial_pos (p * n), Nat.cast_add,
+      padicValNat_def' (Nat.Prime.ne_one hp.out) <| factorial_pos n]
+  exact Prime.multiplicity_factorial_mul hp.out
+
+/-- The `p`-adic valuation of `m` equals zero if it is between `n * k` and `n * (k + 1)` for
+some `k`. -/
+theorem padicValNat_eq_zero_between_consec_multiples {m p k : ℕ}
+    (h1 : p * k < m) (h2 : m < p * (k + 1)) : padicValNat p m = 0 :=
+  padicValNat.eq_zero_of_not_dvd <| not_dvd_of_between_consec_multiples h1 h2
```
Comment (ocfnash) [inline Mathlib/NumberTheory/Padics/PadicVal.lean:556]: I think this is a job for `Set.Ioo`:
```suggestion
theorem padicValNat_eq_zero_of_mem_Ioo {m p k : ℕ}
    (hm : m ∈ Set.Ioo (p * k) (p * (k + 1))) : padicValNat p m = 0 :=
  padicValNat.eq_zero_of_not_dvd <| not_dvd_of_between_consec_multiples hm.1 hm.2
```

File: Mathlib/NumberTheory/Padics/PadicVal.lean [hunk 3]
```diff
@@ -542,12 +542,34 @@ theorem range_pow_padicValNat_subset_divisors' {n : ℕ} [hp : Fact p.Prime] :
...
     padicValNat p (p * n) ! = padicValNat p n ! + n :=  by
   refine' PartENat.natCast_inj.mp _
-  rw [padicValNat_def' (Nat.Prime.ne_one hp) <| factorial_pos (p * n), Nat.cast_add,
-      padicValNat_def' (Nat.Prime.ne_one hp) <| factorial_pos n]
-  exact Prime.multiplicity_factorial_mul hp
+  rw [padicValNat_def' (Nat.Prime.ne_one hp.out) <| factorial_pos (p * n), Nat.cast_add,
+      padicValNat_def' (Nat.Prime.ne_one hp.out) <| factorial_pos n]
+  exact Prime.multiplicity_factorial_mul hp.out
+
+/-- The `p`-adic valuation of `m` equals zero if it is between `n * k` and `n * (k + 1)` for
```
Comment (ocfnash) [inline Mathlib/NumberTheory/Padics/PadicVal.lean:552]:
```suggestion
/-- The `p`-adic valuation of `m` equals zero if it is between `p * k` and `p * (k + 1)` for
```

File: Mathlib/NumberTheory/Padics/PadicVal.lean [hunk 4]
```diff
@@ -542,12 +542,34 @@ theorem range_pow_padicValNat_subset_divisors' {n : ℕ} [hp : Fact p.Prime] :
...
+some `k`. -/
+theorem padicValNat_eq_zero_between_consec_multiples {m p k : ℕ}
+    (h1 : p * k < m) (h2 : m < p * (k + 1)) : padicValNat p m = 0 :=
+  padicValNat.eq_zero_of_not_dvd <| not_dvd_of_between_consec_multiples h1 h2
+
+theorem padicValNat_factorial_add {p n : ℕ} (m : ℕ) [hp : Fact p.Prime] (h : n < p):
```
Comment (ocfnash) [inline Mathlib/NumberTheory/Padics/PadicVal.lean:558]:
```suggestion
theorem padicValNat_factorial_mul_add {p n : ℕ} (m : ℕ) [hp : Fact p.Prime] (h : n < p) :
```

File: Mathlib/NumberTheory/Padics/PadicVal.lean [hunk 5]
```diff
@@ -542,12 +542,34 @@ theorem range_pow_padicValNat_subset_divisors' {n : ℕ} [hp : Fact p.Prime] :
...
+  · rw [zero_eq, add_zero]
+  · rw [add_succ, factorial_succ, padicValNat.mul (succ_ne_zero (p * m + n))
+        <| factorial_ne_zero (p * m + _), hn <| lt_of_succ_lt h, ← add_succ,
+        padicValNat_eq_zero_between_consec_multiples (Nat.lt_add_of_pos_right <| succ_pos n)
+        (Nat.mul_add _ _ _▸ Nat.mul_one _ ▸ ((add_lt_add_iff_left (p * m)).mpr h)), zero_add]
+
+/-- The `p`-adic valuation of `n!` is equal to the `p`-adic valuation of the factorial of the
+the largest multiple of `p` below `n`, i.e. `(p * ⌊n / p⌋)!`. -/
+theorem padicValNat_factorial_div {p : ℕ} (n : ℕ)  [hp : Fact p.Prime]:
+   padicValNat p n ! = padicValNat p (p * (n / p))! := by
```
Comment (ocfnash) [inline Mathlib/NumberTheory/Padics/PadicVal.lean:570]: This would make a good `simp` lemma if we flip the left- and right- hand sides:
```suggestion
@[simp] theorem padicValNat_mul_div_factorial {p : ℕ} (n : ℕ) [hp : Fact p.Prime] :
    padicValNat p (p * (n / p))! = padicValNat p n ! := by
```

File: Mathlib/NumberTheory/Padics/PadicVal.lean (hunk 2 above)
Comment (mo271) [reply Mathlib/NumberTheory/Padics/PadicVal.lean:556]: Nice, should we also change `not_dvd_of_between_consec_multiples` in the same way?

Comment (ocfnash) [reply Mathlib/NumberTheory/Padics/PadicVal.lean]: Yes I think we should; can you do it as part of this PR?

File: Mathlib/NumberTheory/Padics/PadicVal.lean [hunk 6]
```diff
@@ -539,12 +539,34 @@ theorem range_pow_padicValNat_subset_divisors' {n : ℕ} [hp : Fact p.Prime] :
 #align range_pow_padic_val_nat_subset_divisors' range_pow_padicValNat_subset_divisors'
 
 /-- The `p`-adic valuation of `(p * n)!` is `n` more than that of `n!`. -/
-theorem padicValNat_factorial_mul {p : ℕ} (n : ℕ) (hp : p.Prime):
-    padicValNat p (p * n) ! = padicValNat p n ! + n := by
+theorem padicValNat_factorial_mul {p : ℕ} (n : ℕ) [hp : Fact p.Prime]:
+    padicValNat p (p * n) ! = padicValNat p n ! + n :=  by
```
Comment (mo271) [inline Mathlib/NumberTheory/Padics/PadicVal.lean:543]:
```suggestion
    padicValNat p (p * n) ! = padicValNat p n ! + n := by
```

File: Mathlib/NumberTheory/Padics/PadicVal.lean (hunk 2 above)
Comment (mo271) [reply Mathlib/NumberTheory/Padics/PadicVal.lean]: done

Comment (mo271) [reply Mathlib/NumberTheory/Padics/PadicVal.lean]: Seems like this introduces some dependency problems...

**Review by ocfnash — APPROVED** [review]
Thanks!

I think will be ready as soon as you revert my suggestion to change `not_dvd_of_between_consec_multiples` (which is blocked by dependency issues).

bor sd+

**Comment by ocfnash** [comment]
bors d+

**Comment by mo271** [comment]
Thanks! As suggested I reverted the changes for `not_dvd_of_between_consec_multiples`. I also noticed other places in the library where hypothesis of the type `(h1: a < b) (h2: b < c)` could be replaced by `Set.Ioo` and similar. Perhaps we could at some point take a look at simplifying this in all places. 

bors r+
